US07858646B2
Synthesis of 1-(4-iodo-benzyloxy)-2-propyl-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene
Add lithium hexamethyldisilazide (1M solution in tetrahydrofuran, 5.36 ml, 5.36 mmol) to a solution of 1-[2-hydroxy-4-(4-iodo-benzyloxy)-3-propyl-phenyl]-ethanone (1.00 g, 2.44 mmol) in tetrahydrofuran (25 mL) cooled to −78° C. After 1 hour, add trimethylsilyl chloride (794 mg, 7.31 mmol). After 1 hour, warm reaction to room temperature and stir overnight. Pour the reaction into saturated sodium bicarbonate and extract with ethyl acetate. Combine the organic layers, dry with sodium sulfate, filter, and concentrate. Dry on high-vac overnight to yield the title product as a dark yellow oil (1.35 g, 99%): 1H NMR (CDCl3) δ 0.16 (s, 9H), 0.23 (s, 9H), 0.94 (t, 3H), 1.52 (sextet, 2H), 2.60 (t, 2H), 4.49 (s, 1H), 4.53 (s, 1H), 4.99 (s, 2H), 6.49 (d, 1H), 7.10 (d, 1H), 7.17 (d, 2H), 7.71 (d, 2H).

reactant | lithium hexamethyldisilazide | 5.36 mmol, 1M, 5.36 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-[2-hydroxy-4-(4-iodo-benzyloxy)-3-propyl-phenyl]-ethanone | 2.44 mmol, 1.00 g | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)I)C(C)=O | C18H19IO3
reactant | trimethylsilyl chloride | 7.31 mmol, 794 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-(4-iodo-benzyloxy)-2-propyl-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene | 1.35 g, 99% | IC1=CC=C(COC2=C(C(=C(C=C2)C(=C)O[Si](C)(C)C)O[Si](C)(C)C)CCC)C=C1 | C24H35IO3Si2
